US07122550B2
2-Methoxy-4-{6-[(pyridin-3-ylmethyl)amino]pyrazin-2-yl}phenol
A mixture of 6-chloro-N-(pyridin-3-ylmethyl)pyrazin-2-amine (49 mg, 0.22 mmol), 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (52 mg, 0.20 mmol), (PPh3)4Pd (23 mg, 0.020 mmol) and a Na2CO3 solution (0.22 mmol of a 2 M solution) in toluene (10 ml) was heated under reflux overnight. After removal of the solvents, the residue was dissolved in CH2Cl2 (150 ml), dried (Na2SO4), filtered and the CH2Cl2 removed in vacuo. The residue was purified by column chromatography, eluting with a n-hexane:ethyl acetate gradient mixture to obtain the desired product (62 mg, 75%).

reactant | 6-chloro-N-(pyridin-3-ylmethyl)pyrazin-2-amine | 0.22 mmol, 49 mg | ClC1=CN=CC(=N1)NCC=1C=NC=CC1 | C10H9ClN4
reactant | 2-methoxy-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.20 mmol, 52 mg | COC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C13H19BO4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | (PPh3)4Pd | 0.020 mmol, 23 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Methoxy-4-{6-[(pyridin-3-ylmethyl)amino]pyrazin-2-yl}phenol | 62 mg, 75% | COC1=C(C=CC(=C1)C1=NC(=CN=C1)NCC=1C=NC=CC1)O | C17H16N4O2
